US05658923
Triethylamine 0.43 ml was added in a methylene chloride 20 ml solution of (1S)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride 0.49 g, and stirred at 0° C. for 40 min. 3-cyclohexyl propionic acid 0.44 ml and WSC 0.59 g were added therein, then temperature of the reaction mixture was gradually changed to room temperature and stirred for 45 hours. The reaction mixture was concentrated in vacuo and the residue was dissolved in ether. The ether solution was washed with 10% sodium hydroxide solution and dried by anhydrous sodium sulfate. After filtering the drying agent, the filtrate was concentrated in vacuo to obtain crude (1S)-3(3-cyclohexylpropionyl)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane. The concentrate was added to THF 20 ml solution of lithium aluminum hydride 0.19 g and refluxed for 1.5 hour. The reaction mixture was cooled, then added ether, water and 10% sodium hydroxide solution, and filtered the insoluble material. The filtrate was extracted with ether and dried by anhydrous sodium sulfate. After removing the drying agent, the filtrate was concentrated in vacuo. The thus obtained residue was purified by means of flash column chromatography (Merck, silica gel 60 230-600 mesh, chloroform-chloroform: acetone=20:1) to obtain the product.

reactant | Triethylamine | 0.43 ml | C(C)N(CC)CC | C6H15N
reactant | (1S)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride | 0.49 g | Cl.C[C@]12CNCC(CC1)C2(C)C
reactant | 3-cyclohexyl propionic acid | 0.44 ml | C1(CCCCC1)CCC(=O)O | C9H16O2
reactant | WSC | 0.59 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (1S)-3(3-cyclohexylpropionyl)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane | C1(CCCCC1)CCC(=O)N1C[C@]2(CCC(C1)C2(C)C)C | C19H33NO
